### PR TITLE
[Merged by Bors] - feat(Data/PFunctor): Universe generic W

### PR DESCRIPTION
**Pull request by Equilibris**
Previously `W.ind` was limited to `Prop`.
It can for free be changed to `Sort w` forall w. 

---

When changing adding `elab_as_elim` it broke the usages in `Fix.lean`.
I had to change `apply ...`s to use `induction ... using ...` but this a minor change.

I added a `simp` lemma to the `w_ind_wMk` as: it is `rfl` and will almost certainly we used at reference site.
It might in the future be useful to add `simp` to `wRec_eq` as well.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/QPF/Multivariate/Constructions/Fix.lean [hunk 1]
```diff
@@ -69,8 +69,8 @@ theorem recF_eq {α : TypeVec n} {β : Type u} (g : F (α.append1 β) → β) (a
 set_option backward.isDefEq.respectTransparency false in
 theorem recF_eq' {α : TypeVec n} {β : Type u} (g : F (α.append1 β) → β) (x : q.P.W α) :
     recF g x = g (abs (appendFun id (recF g) <$$> q.P.wDest' x)) := by
-  apply q.P.w_cases _ x
-  intro a f' f
+  induction x using  q.P.w_cases
+  case ih a f' f =>
```
Comment (joneugster) [inline Mathlib/Data/QPF/Multivariate/Constructions/Fix.lean:73]: could you please either indent after `case ... =>` or write the following command on the same line if it's short enough and only one.

That seems to be the style across mathlib.

File: Mathlib/Data/PFunctor/Multivariate/W.lean [hunk 2]
```diff
@@ -168,29 +169,35 @@ def wRec {α : TypeVec n} {C : Type*}
...
-  dsimp at ih''; rw [wPathCasesOn_eta] at ih''
-  apply ih''
-  apply ih'
-
-theorem w_cases {α : TypeVec n} {C : P.W α → Prop}
+    ∀ x, C x := fun ⟨hd, ch⟩ =>
+  wp_ind P (fun head f f' ih' =>
+    cast
+      (congr rfl <| Sigma.mk.inj_iff.mpr ⟨rfl, heq_of_eq <| wPathCasesOn_eta P f'⟩)
+      <| ih head (P.wPathDestLeft f') (fun i => ⟨f i, P.wPathDestRight f' i⟩) ih') hd ch
```
Comment (joneugster) [inline Mathlib/Data/PFunctor/Multivariate/W.lean:188]: @ reviewer: this seems to be completely optional golfing, and plugging the old version back seems to work fine, too.

IMO both versions are not particularly easy to read and the old one clearly had things which needed improvement (e.g. `intro ⟨a, f⟩` instead of `intro x; obtain ⟨a, f⟩ := x`), so I think this golf is desired.

(no action needed)

File: Mathlib/Data/PFunctor/Multivariate/W.lean [hunk 3]
```diff
@@ -48,7 +48,7 @@ its valid paths to values of `α`
 @[expose] public section
 
 
-universe u v
```
Comment (joneugster) [inline Mathlib/Data/PFunctor/Multivariate/W.lean:51]: it seems universe `v` is unused?

File: Mathlib/Data/PFunctor/Multivariate/W.lean [hunk 4]
```diff
@@ -168,29 +169,35 @@ def wRec {α : TypeVec n} {C : Type*}
...
+      <| ih head (P.wPathDestLeft f') (fun i => ⟨f i, P.wPathDestRight f' i⟩) ih') hd ch
+
+/-- Cases lemma for `W` types -/
+@[elab_as_elim]
+def w_cases {α : TypeVec n} {C : P.W α → Sort w}
     (ih : ∀ (a : P.A) (f' : P.drop.B a ⟹ α) (f : P.last.B a → P.W α), C (P.wMk a f' f)) :
     ∀ x, C x := P.w_ind fun a f' f _ih' => ih a f' f
 
+@[simp]
+theorem w_ind_wMk {α : TypeVec n} {C : P.W α → Sort w}
```
Comment (joneugster) [inline Mathlib/Data/PFunctor/Multivariate/W.lean]: could you move this one declaration up in the document, so it is situated directly after `w_ind`

File: Mathlib/Data/PFunctor/Multivariate/W.lean [hunk 5]
```diff
@@ -168,29 +169,35 @@ def wRec {α : TypeVec n} {C : Type*}
...
+    (ih : ∀ (a : P.A) (f' : P.drop.B a ⟹ α) (f : P.last.B a → P.W α),
+        (∀ i, C (f i)) → C (P.wMk a f' f))
+    {a} {f' : P.drop.B a ⟹ α} {f}
```
Comment (joneugster) [inline Mathlib/Data/PFunctor/Multivariate/W.lean]: I think we prefer if the types of variables are written explicitly.

Could you maybe also change this for the `{i}` appearing in `WPath.inhabited` further up in the code?

**Review by joneugster — COMMENTED** [review]
Thank you for the PR!

Overall these generalisations seem to make sense. Here a few suggestions

File: Mathlib/Data/PFunctor/Multivariate/W.lean (hunk 3 above)
Comment (Equilibris) [reply Mathlib/Data/PFunctor/Multivariate/W.lean:51]: Thanks I changed it to use v now instead

File: Mathlib/Data/PFunctor/Multivariate/W.lean (hunk 5 above)
Comment (Equilibris) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: In the PFunctor section, i usually refers to a Fin2, in this case it refers to the head of a functor. Would you still like this changed?

File: Mathlib/Data/PFunctor/Multivariate/W.lean
Comment (joneugster) [inline Mathlib/Data/PFunctor/Multivariate/W.lean]:
```suggestion
instance WPath.inhabited (x : P.last.W) {i : Fin2 n} [I : Inhabited (P.drop.B x.head i)] :
```

is all I suggested in the other comment. I think it's best to avoid implicit typing in declaration statements.

Anyways, this is outside of this PR's change, so should not delay the process :)

File: Mathlib/Data/PFunctor/Multivariate/W.lean (hunk 5 above)
Comment (joneugster) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: See suggestion below. Your new code is fine. While reviewing I just spotted the `{i}` in another declaration of the file which should be changed to `{i : Fin2 n}` imo

File: Mathlib/Data/QPF/Multivariate/Constructions/Fix.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/Data/QPF/Multivariate/Constructions/Fix.lean:73]: I took the liberty to push a commit 6ce1b033dceb8b178296389c13f0e03fb91a25ae to adjust this style as suggested, it only whitespace changes. I hope that is fine by you

**Review by joneugster — APPROVED** [review]
Thank you for the PR!

maintainer merge

File: Mathlib/Data/PFunctor/Multivariate/W.lean [hunk 6]
```diff
@@ -127,18 +127,19 @@ def wpMk {α : TypeVec n} (a : P.A) (f : P.last.B a → P.last.W) (f' : P.WPath
...
+theorem wpRec_eq {α : TypeVec n} {C : Sort*}
     (g : ∀ (a : P.A) (f : P.last.B a → P.last.W), P.WPath ⟨a, f⟩ ⟹ α → (P.last.B a → C) → C)
     (a : P.A) (f : P.last.B a → P.last.W) (f' : P.WPath ⟨a, f⟩ ⟹ α) :
     P.wpRec g ⟨a, f⟩ f' = g a f f' fun i => P.wpRec g (f i) (P.wPathDestRight f' i) := rfl
 
--- Note: we could replace Prop by Type* and obtain a dependent recursor
-theorem wp_ind {α : TypeVec n} {C : ∀ x : P.last.W, P.WPath x ⟹ α → Prop}
+/-- Induction principle for an unfolded `W` -/
+@[elab_as_elim]
+def wp_ind {α : TypeVec n} {C : ∀ x : P.last.W, P.WPath x ⟹ α → Sort v}
```
Comment (plp127) [inline Mathlib/Data/PFunctor/Multivariate/W.lean]: Since this isn't a `theorem` anymore, can we make it `lowerCamelCase`

Comment (joneugster) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: actually Aaron has a point, I missed that. Same applies for `w_cases` -> `wCases`.

Moreover, please add deprecations

```
@[deprecated (since := "2026-03-20")] alias w_ind := wInd
@[deprecated (since := "2026-03-20")] alias w_ind_wMk := wInd_wMk
```

bors d-

Comment (riccardobrasca) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: Do you really want to undelegate? Note that bors is not merging.

Comment (joneugster) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: since @Equilibris has the `new-contributor` tag, I think it would be appropriate that the PR does another review cycle, even if I have no doubt that they are doing a fabulous job.

Comment (Equilibris) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: Hi I belive this to be resolved now

Comment (riccardobrasca) [reply Mathlib/Data/PFunctor/Multivariate/W.lean]: @joneugster can you have another look?
